US06277990B1
To a suspension of 2-nitro-6(5H)-phenanthridinone (3.8 g, 0.0 16 mol) in DMF (200 mL) was added an ammonium chloride solution (3%, 200 mL), followed by the addition of iron powder (22 g). The reaction mixture was stirred at 100° C. for 1 hr. The residue was removed by filtration, and the filtrate was made acidic by adding dilute HCl (25%, 20 mL). A solid separated from the solution and was filtered and washed thoroughly with cold water to remove acidic impurities. The solid was then dried under vacuum, to give hydrochloride salt of 2-amino-6(5H)-phenanthridinone (3.4 g, 89%).

reactant | 2-nitro-6(5H)-phenanthridinone | 16 mol, 3.8 g | [N+](=O)([O-])C1=CC=2C3=CC=CC=C3C(NC2C=C1)=O | C13H8N2O3
reactant | ammonium chloride | 200 mL | [Cl-].[NH4+]
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
catalyst | iron | 22 g | [Fe] | Fe
product | 2-amino-6(5H)-phenanthridinone | 3.4 g, 89% | NC1=CC=2C3=CC=CC=C3C(NC2C=C1)=O | C13H10N2O
